US04780477
To a suspension of 3.30 g of 5-fluoroisatin and 4.00 g of 2-diisopropylaminoethyl chloride hydrochloride in 75 ml of dry N,N-dimethylformamide was added 1.60 g of sodium hydride (60% dispersion in mineral oil) with stirring under ice-cooling. The mixture was stirred for 30 minutes at room temperature and then heated at 80° C. for 17 hours. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with benzene, and the benzene layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hexane-petroleum benzine (boiling point range of 50°-80° C., and containing 60-70% hexane; distributed by Wako Pure Chemical Industries, LTD) to obtain 4.97 g of 1-(2-diisopropylaminoethyl)-5-fluoroisatin having a melting point of 100°-102° C.

reactant | 5-fluoroisatin | 3.30 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 2-diisopropylaminoethyl chloride hydrochloride | 4.00 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | sodium hydride | 1.60 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1-(2-diisopropylaminoethyl)-5-fluoroisatin | 4.97 g | C(C)(C)N(CCN1C(=O)C(=O)C2=CC(=CC=C12)F)C(C)C | C16H21FN2O2
